### PR TITLE
[Merged by Bors] - feat(Data/Fin/Basic)

### PR DESCRIPTION
**Pull request by ammkrn**
Add some lemmas and instances for Fin.

I'm not sure whether this definition of `Fin.gsmul` is okay. The one in mathlib3 is super buried, so I couldn't figure out how it's actually defined (it' called zsmul in mathlib3).

### CODE REVIEW

**Comment by semorrison** [comment]
@ammkrn, are these preparatory work for some tactic?

**Comment by ammkrn** [comment]
@semorrison It's mostly a setup for talking about fixed-width integers; UInt8 was mentioned as a desirable target for experimentation before the actual port (https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Which.20files.20to.20port.3F/near/238397100).

File: Mathlib/Init/Data/Nat/Lemmas.lean [hunk 1]
```diff
@@ -806,6 +806,31 @@ lemma div_lt_self (h₁ : 0 < n) (h₂ : 1 < m) : n / m < n := by
...
+    let hy := (a * b) % n
+    have hx : (a * b) % n = hy := rfl
+    rw [←mod_add_div a n, ←mod_add_div b n, Nat.right_distrib, Nat.left_distrib, Nat.left_distrib,
+        Nat.mul_assoc, Nat.mul_assoc, ←Nat.left_distrib n _ _, add_mul_mod_self_left,
+        Nat.mul_comm _ (n * (b / n)), Nat.mul_assoc, add_mul_mod_self_left] at hx
+    rw [hx]
+    done
+
+@[simp] theorem mod_add_mod (m n k : ℕ) : (m % n + k) % n = (m + k) % n :=
+by have := (add_mul_mod_self_left (m % n + k) n (m / n)).symm;
```
Comment (gebner) [inline Mathlib/Init/Data/Nat/Lemmas.lean:825]:
```suggestion
@[simp] theorem mod_add_mod (m n k : ℕ) : (m % n + k) % n = (m + k) % n := by
  have := (add_mul_mod_self_left (m % n + k) n (m / n)).symm
```

File: Mathlib/Data/Fin/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,196 @@
...
+  sub_eq_add_neg := Fin.sub_eq_add_neg
+  gsmul := Fin.gsmul
+  gsmul_zero' := Fin.gsmul_zero'
+  gsmul_succ' := Fin.gsmul_succ'
+  gsmul_neg' := Fin.gsmul_neg'
+
+instance : AddGroup (Fin n.succ) where
+  add_left_neg := Fin.add_left_neg
+
+def Fin.overflowingAdd (a b : Fin n) : (Bool × Fin n) := (n <= a.val + b.val, a + b)
```
Comment (gebner) [inline Mathlib/Data/Fin/Basic.lean:148]: We don't have these in mathlib, are these useful?  (I can somewhat see the point in checkedAdd, but this definition seems strictly less useful than just writing `n <= a.val + b.val`.)

File: Mathlib/Data/Fin/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,196 @@
...
+lemma Fin.mul_comm (a b : Fin n) : a * b = b * a := by
+apply Fin.eq_of_val_eq
+simp only [Fin.mul_def, Nat.mul_comm]
+
+lemma Fin.add_assoc (a b c : Fin n) : (a + b) + c = a + (b + c) := by
+apply Fin.eq_of_val_eq
+simp only [Fin.mul_def, Fin.add_def, Nat.mod_add_mod, Nat.add_mod_mod, Nat.add_assoc]
+
+instance : Neg (Fin n) where
+  neg := λ a => ⟨(n - a) % n, Nat.mod_lt _ (lt_of_le_of_lt (Nat.zero_le _) a.isLt)⟩
```
Comment (gebner) [inline Mathlib/Data/Fin/Basic.lean:79]:
```suggestion
  neg a := ⟨(n - a) % n, Nat.mod_lt _ (lt_of_le_of_lt (Nat.zero_le _) a.isLt)⟩
```

File: Mathlib/Data/Fin/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,196 @@
...
+
+variable {n : Nat}
+
+instance : Zero (Fin n.succ) where
+  zero := Fin.ofNat 0
+
+@[simp]
+lemma Fin.val_zero : (0 : Fin n.succ).val = (0 : Nat) := by
+  have h0 : ∀ x, (OfNat.ofNat x : Fin n.succ) = Fin.ofNat x := by simp [OfNat.ofNat]
+  simp only [h0, Fin.ofNat, Nat.zero_mod]
```
Comment (gebner) [inline Mathlib/Data/Fin/Basic.lean:14]:
```suggestion
  show (Fin.ofNat 0).val = 0 by simp [Fin.ofNat]
```

File: Mathlib/Data/Fin/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,196 @@
...
+  | (false, diff) => some (diff)
+
+lemma Fin.checked_add_spec (a b : Fin n) : (Fin.checkedAdd a b).isSome = true <-> a.val + b.val < n := by
+  simp only [checkedAdd, overflowingAdd, Option.isSome]
+  refine Iff.intro ?mp ?mpr <;> intro h
+  case mp =>
+    by_cases hx : n <= a.val + b.val
+    case pos => simp only [(decide_eq_true_iff (n <= a.val + b.val)).mpr hx] at h
+    case neg => exact Nat.lt_of_not_le hx
+  case mpr => simp only [decide_eq_false (Nat.not_le_of_lt h : ¬n <= a.val + b.val)]
```
Comment (gebner) [inline Mathlib/Data/Fin/Basic.lean:176]:
```suggestion
  by_cases n <= a.val + b.val <;>
    simp_all [checkedAdd, Option.isSome, overflowingAdd, decide_eq_true, decide_eq_false]
```

File: Mathlib/Data/Fin/Basic.lean (hunk 2 above)
Comment (ammkrn) [reply Mathlib/Data/Fin/Basic.lean:147]: I think so; I'm not super attached to this particular interface, but I think putting overflow/underflow checks behind a definition is preferable to having users do the checks themselves. It's easy to make stupid mistakes with inequalities, and Fin has a second sharp edge in that `n <= a + b` is wrong, but tempting if you're not thinking very hard.

Comment (gebner) [reply Mathlib/Data/Fin/Basic.lean:147]: My point was rather that a definition like `Fin.isNonOverflowingAdd (a b : Fin n) : Bool` might be more ergonomic because pattern matches are always awkward in proofs, and writing `(overflowingAdd a b).1` gets old.

But I won't insist on anything here.  The standard disclaimer in the readme applies.

Comment (ammkrn) [reply Mathlib/Data/Fin/Basic.lean:147]: That's a good point. I'll add a boolean check like you described and people can feel out what idioms end up being more comfortable. I suspect you're right that when proofs are in the mix, the use case of "I just want to know whether these overflow" is more common than "I want the result, and I want to know whether they overflow".
